US07592352B2
e) 4-Amino-3-(4-chlorophenyl)-7-(3,4,5-trimethoxyphenyl)-thieno[3,2-c]pyridine (Ip)
The mixture of 4-amino-3-bromo-7-(3,4,5-trimethoxyphenyl)-thieno[3,2-c]pyridine (30 mg, 0.076 mmol), Pd(PPh3)4 (17 mg, 10 mol %), 4-chlorobenzeneboronic acid (30 mg, 0.19 mmol) and 2M sodium bicarbonate (0.19 ml, 0.38 mmol) in DME (2 ml) was stirred for 14 hours at 80° C. The crude mixture was directly applied to SCX (Varian, 5 g) and eluted with 1N NH3 in CHCl3 and MeOH. The eluant was collected and concentrated in vacuo. The residue was purified by chromatography on a silica gel column to afford the titled compound (15.5 mg) 1H NMR (400 MHz, DMSO-d6) ppm 7.99 (s, 1H), 7.60 (d, J=8.6 Hz, 2H), 7.58 (s, 1H), 7.51 (d, J=7.3 Hz, 2H), 6.95 ((s, 2H), 5.47 (s, 2H), 3.85 (s, 6H), 3.73 (s, 3H). MS: m/z 427, 429 (M+H)+.

reactant | 4-amino-3-bromo-7-(3,4,5-trimethoxyphenyl)-thieno[3,2-c]pyridine | 0.076 mmol, 30 mg | NC1=NC=C(C2=C1C(=CS2)Br)C2=CC(=C(C(=C2)OC)OC)OC | C16H15BrN2O3S
reactant | 4-chlorobenzeneboronic acid | 0.19 mmol, 30 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium bicarbonate | 0.38 mmol, 2M, 0.19 ml | C([O-])(O)=O.[Na+]
solvent | DME | 2 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-3-(4-chlorophenyl)-7-(3,4,5-trimethoxyphenyl)-thieno[3,2-c]pyridine | 15.5 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC=C(C=C2)Cl)C2=CC(=C(C(=C2)OC)OC)OC | C22H19ClN2O3S
